US07205314B2
1-Chloro-6-(2-methoxyethoxy)isoquinoline
To 6-(2-methoxyethoxy)isoquinolin-1-ol (3.15 g, 14.4 mmol) was added phosphorus trichloride (70 mL) under nitrogen atmosphere. The mixture was heated at reflux giving a nearly opaque brown solution. After 2 h at reflux, the solution was concentrated in vacuo until 20 mL remained and poured onto ice water (100 mL). The pH of the resulting mixture was adjusted to 6.5 with the addition of solid potassium carbonate and extracted with dichloromethane (3×100 mL). The combined organic layers were washed with water (50 mL) and brine (50 mL) and concentrated in vacuo. The resulting tan solid was taken up in dichloromethane, adsorbed on silica gel and purified by flash chromatography (gradient:hexane/ethyl acetate, 60:40→40:60) to give, after drying in vacuo, 2.73 g (80% yield) of the title compound as a pale yellow solid. MS(AP+), 238 (100, M++1), 202 (33), 179 (33).

reactant | 6-(2-methoxyethoxy)isoquinolin-1-ol | 14.4 mmol, 3.15 g | COCCOC=1C=C2C=CN=C(C2=CC1)O | C12H13NO3
reactant | phosphorus trichloride | 70 mL | P(Cl)(Cl)Cl | Cl3P
product | 1-Chloro-6-(2-methoxyethoxy)isoquinoline | 2.73 g, 80% yield | ClC1=NC=CC2=CC(=CC=C12)OCCOC | C12H12ClNO2
